US07087626B2
(S)-[3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-methanol
To a solution of (S)-6-benzyloxymethyl-3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (0.3 g, 0.73 mmol) in chloroform (1.0 mL) is added trimethylsilyl iodide (0.173 mL, 1.21 mmol). The mixture is stirred 2 h, diluted with methanol (10 mL), stirred 10 min, and concentrated in vacuo. The residue is taken up in ethyl acetate (50 mL), washed with aqueous sodium thiosulfate (2×50 mL), saturated sodium bicarbonate solution, and brine. The resulting solution is dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (3% methanol/ethyl acetate) to yield the title compound, 149 mg (64%), as a pale yellow solid.

reactant | (S)-6-benzyloxymethyl-3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.73 mmol, 0.3 g | C(C1=CC=CC=C1)OC[C@@H]1CCC=2N1N=C(C2C2=CC=C(C=C2)F)C2=NC(=CC=C2)C | C26H24FN3O
reactant | trimethylsilyl iodide | 1.21 mmol, 0.173 mL | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 mL | CO | CH4O
product | (S)-[3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-methanol | FC1=CC=C(C=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)[C@@H](CC2)CO | C19H18FN3O
